US04424396
A mixture of 10 parts of 3-chloro-4-fluorobenzotrifluoride, 10 parts of potassium valinate and 50 parts of sulfolane was heated and maintained at about 125° C. for about 17 hours, with mixing. The mixture was then cooled to room temperature, diluted with water and acidified with hydrochloric acid to a pH of 1.0. The aqueous layer was extracted with diethyl ether. The ether layers were washed with water, then dried and concentrated by evaporation to yield 9.6 parts of 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoic acid (96% purity); a yield of about 65% based on the 3-chloro-4-fluorobenzotrifluoride starting material.

reactant | 3-chloro-4-fluorobenzotrifluoride | ClC=1C=C(C=CC1F)C(F)(F)F | C7H3ClF4
reactant | potassium valinate | N[C@@H](C(C)C)C(=O)[O-].[K+]
reactant | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoic acid | 96% | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)O)C(C)C | C12H13ClF3NO2
